US07229998B2
5-[(E)-2-(4-Methoxy-3-methylphenyl)ethenyl]-4-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole
To a suspension of NaH (60% dispersion in mineral oil, 242 mg, 6.32 mmoles, 1.4 eq) in dry CH2Cl2 (15 ml) was added (4-Methoxy-3-methylbenzyl)(triphenyl)phosphonium chloride (2.62 g, 6.32 mmoles, 1.4 eq). This was allowed to stir at room temperature for 1.5 hours followed by the dropwise addition of 4-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole-5-carbaldehyde (1.68 g, 4.51 mmoles, 1 eq) in anhydrous carbon tetrachloride (25 ml). The resulting reaction mixture was refluxed overnight at which point (after cooling to room temperature) the reaction was washed with 1N NaOH, H2O, brine, dried over Na2SO4 and concentrated in vacuo to yield a >100% yield of a light green oil. The crude material was used without purification.

reactant | NaH | 6.32 mmoles, 242 mg, 1.4 eq | [H-].[Na+]
reactant | (4-Methoxy-3-methylbenzyl)(triphenyl)phosphonium chloride | 6.32 mmoles, 2.62 g, 1.4 eq | [Cl-].COC1=C(C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)C
reactant | 4-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole-5-carbaldehyde | 4.51 mmoles, 1.68 g, 1 eq | O1C(CCCC1)OCC=1N=C(SC1C=O)C1=CC=C(C=C1)C(F)(F)F | C17H16F3NO3S
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-[(E)-2-(4-Methoxy-3-methylphenyl)ethenyl]-4-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-[4-(trifluoromethyl)phenyl]-1,3-thiazole | >100% yield | COC1=C(C=C(C=C1)/C=C/C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)COC1OCCCC1)C | C26H26F3NO3S
